US05523278
Preparation of Methyl 5-amino-1,2-benzisothiazole-3-acetate
Iron (0.74 g, 13.3 mmol) is added portionwise to a solution of methyl 5-nitro-1,2-benzisothiazole-3-acetate (0.67 g, 2.7 mmol) in acetic acid at 50° C. The reaction mixture is stirred at 50° C. for several minutes, cooled and filtered through diatomaceous earth. The resultant filtrate, which contains the title product, is used in Example 22 without further purification.

reactant | methyl 5-nitro-1,2-benzisothiazole-3-acetate | 2.7 mmol, 0.67 g | [N+](=O)([O-])C=1C=CC2=C(C(=NS2)CC(=O)OC)C1 | C10H8N2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | Iron | 13.3 mmol, 0.74 g | [Fe] | Fe
product | Methyl 5-amino-1,2-benzisothiazole-3-acetate | NC=1C=CC2=C(C(=NS2)CC(=O)OC)C1 | C10H10N2O2S
